US04788206
As in Example 134, a solution of (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (25.85 g) and 3-pyridinebutanamine (10 g) in tetrahydrofurane (100 mL) was stirred for 18 hours at room temperature and was worked up in the usual manner. The crude product was purified by HPLC (ethyl acetate) and then crystallized from ethyl acetate-hexane to afford 23.9 g of (E)-5,5-bis(3-fluorophenyl)- N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide mp 103°-104° C.

reactant | (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 25.85 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC(=CC=C1)F)C1=CC(=CC=C1)F)=O | C23H15F2NO4
reactant | 3-pyridinebutanamine | 10 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofurane | 100 mL | O1CCCC1 | C4H8O
product | (E)-5,5-bis(3-fluorophenyl)- N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide | 23.9 g | FC=1C=C(C=CC1)C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)C1=CC(=CC=C1)F | C26H24F2N2O
